US05332739
1.12 g of 1,3-dimethyl-6-(1-piperazinyl)-2,4(1H,3H)pyrimidinedione and 1.4 g of phenoxyethyl bromide were dissolved in 5 ml of ethanol, and 1.0 g of triethylamine was then added, followed by heating under reflux for 1 hour. Furthermore, 0.6 g of phenoxyethyl bromide was added, and the solution was heated under reflux for 2 hours. The precipitated crystals were collected by filtration, washed with water, dried and then recrystallized from hexane/ethanol to obtain 1.1 g (yield: 63%) of 1,3-dimethyl-6-[4-(2-phenoxyethyl)piperazin-1-yl]-2,4(1H,3H)-pyrimidinedione.

reactant | 1,3-dimethyl-6-(1-piperazinyl)-2,4(1H,3H)pyrimidinedione | 1.12 g | CN1C(N(C(C=C1N1CCNCC1)=O)C)=O | C10H16N4O2
reactant | phenoxyethyl bromide | 1.4 g | O(C1=CC=CC=C1)CCBr | C8H9BrO
reactant | triethylamine | 1.0 g | C(C)N(CC)CC | C6H15N
reactant | phenoxyethyl bromide | 0.6 g | O(C1=CC=CC=C1)CCBr | C8H9BrO
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1,3-dimethyl-6-[4-(2-phenoxyethyl)piperazin-1-yl]-2,4(1H,3H)-pyrimidinedione | 1.1 g, yield: 63% | CN1C(N(C(C=C1N1CCN(CC1)CCOC1=CC=CC=C1)=O)C)=O | C18H24N4O3
